US08030497B2
4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-5-(4-methyl-pyrazol-1-ylmethyl)-1H-benzoimidazole
NaH (7 mg, 0.3 mmol) is added to a solution of 23 μl (0.30 mmol) 4-methylpyrazole in 2 ml DMF. The resulting mixture is stirred at room temperature for 1 h, then 119 mg (0.23 mmol) methanesulfonic acid 4-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-ylmethyl ester is added. Stirring is continued for 20 h. After that the reaction mixture is poured on water and extracted (3×) with ethyl acetate. The combined organic layers are washed with water (2×) and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (dichloromethane:isopropanol=95:5) to afford 80 mg of the title compound as a white foam.

reactant | NaH | 0.3 mmol, 7 mg | [H-].[Na+]
reactant | 4-methylpyrazole | 0.30 mmol, 23 μl | CC=1C=NNC1 | C4H6N2
reactant | methanesulfonic acid 4-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-ylmethyl ester | 0.23 mmol, 119 mg | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)COS(=O)(=O)C | C22H27BrN2O5S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-5-(4-methyl-pyrazol-1-ylmethyl)-1H-benzoimidazole | 80 mg | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)CN2N=CC(=C2)C | C25H29BrN4O2
